US08648041B2
7. Synthesis of 2,2-Dimethyl-N-[3-(1-trityl-1H-imidazol-4-yl)-propyl]-malonamic acid
2-Chlorotrityl chloride resin (2.3 g, 3.0 mmol) was swelled in DCM for 20 mins and filtered. Dimethylmalonic acid (2 eq; 6.0 mmol; 793 mg) was dissolved i DCM:DMF 1:1 (10 mL) and added to the resin followed by DIPEA (6 eq; 18.0 mmol; 3.14 mL) and DCM (10 mL). The resin was shaken overnight at RT. The resin was filtered and washed with DCM:MeOH:DIPEA (17:2:1), DCM, NMP og DCM (2×25 mL of each). The resin was swelled in DMF for 20 mins and filtered. HOAt (3 eq; 9.0 mmol; 1.23 g), DIC (3 eq; 9.0 mmol; 1.40 mL) and DMF (25 mL) was added and the resin was shaken for 90 min at RT. The resin was filtrered and 3-(1-Trityl-1H-imidazol-4-yl)-propyl amine (1.8 eq; 5.40 mmol; 1.84 g), DIPEA (4 eq; 6.0 mmol; 2.09 mL), and DMF (10 mL) was added. The resin was shaken for 2 days. The resin was filtered and washed with NMP (5×20 mL) and DCM (10×20 mL). 2,2,2-Trifluoroethanol/dichlormethan 1:1 (20 mL) was added to the resin and it was shaked for 2 hrs. The resin was washed with 2,2,2-Trifluoroethanol/dichlormethan 1:1 (10 mL) and the combined filtrates were collected and concentrated in vacuo to yield the title compound.

reactant | 2-Chlorotrityl chloride resin | 3.0 mmol, 2.3 g | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl | C19H14Cl2
reactant | Dimethylmalonic acid | 6.0 mmol, 793 mg, 2 eq | CC(C(=O)O)(C(=O)O)C | C5H8O4
reactant | DIPEA | 18.0 mmol, 3.14 mL, 6 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HOAt | 9.0 mmol, 1.23 g, 3 eq | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIC | 9.0 mmol, 1.40 mL, 3 eq | CC(N=C=NC(C)C)C | C7H14N2
reactant | 3-(1-Trityl-1H-imidazol-4-yl)-propyl amine | 5.40 mmol, 1.84 g, 1.8 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCCN | C25H25N3
reactant | DIPEA | 6.0 mmol, 2.09 mL, 4 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DCM DMF | 10 mL | C(Cl)Cl.CN(C)C=O
product | 2,2-Dimethyl-N-[3-(1-trityl-1H-imidazol-4-yl)-propyl]-malonamic acid | CC(C(=O)O)(C(=O)NCCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C30H31N3O3
